US06906058B2
1,1-Dioxo-3-butyl-3-ethyl-5-phenyl-7-methoxy-8-ethoxycarbonylmethoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine
1,1-dioxo-3-butyl-3-ethyl-5-phenyl-7-methoxy-8-hydroxy-2,3,4,5-tetrahydro-1,5-benzothiazepine (WO 9616051; 1.0 g), ethyl bromoacetate (0,50 g), sodium carbonate (1.2 g) and tetrabutylammonium bromide (60 mg) in MeCN (15 ml) were refluxed over night. The solvent was removed under reduced pressure and the residue was extracted (DCM/H2O). The organic layer was separated and the solvent was removed under reduced pressure. The residue purified by chromatography (DCM/EtOAc (90:10)) to give the title compound 1.2 g (98%). NMR (400 MHz, CD3OD) 0.75-0.85 (m, 6H), 1.00-1.30 (m, 8H), 1.35-1.55 (m, 4H), 3.20 (s, 2H), 3.65 (s, 3H), 3.70 (brs, 2H), 4.50 (s, 2H), 6.50 (s, 1H), 6.90-7.30 (m,5H), 7.40 (s, 1H).

reactant | 1,1-dioxo-3-butyl-3-ethyl-5-phenyl-7-methoxy-8-hydroxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | 1.0 g | O=S1(CC(CN(C2=C1C=C(C(=C2)OC)O)C2=CC=CC=C2)(CC)CCCC)=O | C22H29NO4S
reactant | ethyl bromoacetate | 0,50 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium carbonate | 1.2 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrabutylammonium bromide | 60 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | MeCN | 15 ml | CC#N | C2H3N
product | 1,1-Dioxo-3-butyl-3-ethyl-5-phenyl-7-methoxy-8-ethoxycarbonylmethoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | 1.2 g, 98% | O=S1(CC(CN(C2=C1C=C(C(=C2)OC)OCC(=O)OCC)C2=CC=CC=C2)(CC)CCCC)=O | C26H35NO6S
